US07678801B2
79j) 3-{8-(2,6-difluorophenyl)-2-[(1H-imidazol-2-ylmethyl)amino]-7-oxo-7,8-dihydropyrido[2,3-d]pyrimidin-4-yl}-4-methyl-N-1,3-thiazol-2-ylbenzamide ethanesulfonate
Acetone (200 uL) was added to free-base version of 3-{8-(2,6-difluorophenyl)-2-[(1H-imidazol-2-ylmethyl)amino]-7-oxo-7,8-dihydropyrido[2,3-d]pyrimidin-4-yl}-4-methyl-N-1,3-thiazol-2-ylbenzamide (25.1 mg), and the resulting mixture was heated to 50° C. Ethanesulfonic acid was added (1.0 equivalent; 1N in THF), and the mixture stirred for several days. The product was filtered, washed with acetone, and dried overnight in a vacuum oven at 50° C. with a slow nitrogen bleed. The yield was 70.6% (9.1 mg) of title compound with a melting onset at 296° C. (determined by DSC).

reactant | Acetone | 200 uL | CC(=O)C | C3H6O
reactant | 3-{8-(2,6-difluorophenyl)-2-[(1H-imidazol-2-ylmethyl)amino]-7-oxo-7,8-dihydropyrido[2,3-d]pyrimidin-4-yl}-4-methyl-N-1,3-thiazol-2-ylbenzamide | 25.1 mg | FC1=C(C(=CC=C1)F)N1C(C=CC2=C1N=C(N=C2C=2C=C(C(=O)NC=1SC=CN1)C=CC2C)NCC=2NC=CN2)=O | C28H20F2N8O2S
reactant | Ethanesulfonic acid | C(C)S(=O)(=O)O | C2H6O3S
solvent | THF | C1CCOC1 | C4H8O
product | 3-{8-(2,6-difluorophenyl)-2-[(1H-imidazol-2-ylmethyl)amino]-7-oxo-7,8-dihydropyrido[2,3-d]pyrimidin-4-yl}-4-methyl-N-1,3-thiazol-2-ylbenzamide ethanesulfonate | 9.1 mg, yield was 70.6% | C(C)S(=O)(=O)O.FC1=C(C(=CC=C1)F)N1C(C=CC2=C1N=C(N=C2C=2C=C(C(=O)NC=1SC=CN1)C=CC2C)NCC=2NC=CN2)=O | InChI=1S/C28H20F2N8O2S.C2H6O3S/c1-15-5-6-16(26(40)37-28-33-11-12-41-28)13-18(15)23-17-7-8-22(39)38(24-19(29)3-2-4-20(24)30)25(17)36-27(35-23)34-14-21-31-9-10-32-21;1-2-6(3,4)5/h2-13H,14H2,1H3,(H,31,32)(H,33,37,40)(H,34,35,36);2H2,1H3,(H,3,4,5)
